US04372953
1-Methyl-5-[3-(2-pyridyl)thiopropyl]thio-1,2,3,4-tetrazole (2.2 g) is dissolved in formic acid (20 ml), and thereto is added with stirring 30% hydrogen peroxide (2.2 g) at room temperature. The mixture is stirred at room temperature for 5 hours, and thereto is added sodium hydrogensulfite under ice-cooling in order to decompose excess amount of performic acid. Water is added to the mixture and the mixture is extracted with chloroform. The chloroform solution is washed with water and saturated aqueous sodium bicarbonate and dried over magnesium sulfate. After chloroform is distilled off, the residue is purified by column chromatography [Kieselgel 60, eluting agent, chloroform-methanol (50:1)] to give 3-(1-methyl-1,2,3,4-tetrazol-5-yl)sulfinylpropyl 2-pyridyl sulfoxide (0.5 g) as colorless liquid, nD28.5 =1.5795

reactant | 1-Methyl-5-[3-(2-pyridyl)thiopropyl]thio-1,2,3,4-tetrazole | 2.2 g | CN1N=NN=C1SCCCSC1=NC=CC=C1 | C10H13N5S2
reactant | hydrogen peroxide | 2.2 g | OO | H2O2
reactant | sodium hydrogensulfite | S(=O)(O)[O-].[Na+]
reactant | performic acid | C(=O)OO | CH2O3
reactant | Water | O | H2O
solvent | formic acid | 20 ml | C(=O)O | CH2O2
product | 3-(1-methyl-1,2,3,4-tetrazol-5-yl)sulfinylpropyl 2-pyridyl sulfoxide | 0.5 g | N1=C(C=CC=C1)S(=O)CCCS(=O)C1=NN=NN1C | C10H13N5O2S2
